US05576321
Preparation of 7-chloro-3-(piperidin-4-yl)-1H-indole
7-Chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (2.0 g, 8.62 mmol) and 0.5 g of platinum oxide were added to 100 mL of ethanol and the mixture was shaken under about 50 psi hydrogen at about ambient temperature for about a day. The mixture was filtered and the filtrate concentrated to yield a solid comprising the desired product. Yield 1.64 g (81%) as a yellow solid. FDMS m/e=234 (M+).

reactant | 7-Chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 8.62 mmol, 2.0 g | ClC=1C=CC=C2C(=CNC12)C=1CCNCC1 | C13H13ClN2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.5 g | [Pt]=O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 7-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=CC=C2C(=CNC12)C1CCNCC1 | C13H15ClN2
